US06544985B2
4-(8-Azetidin-1-yl-7-chloro-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile
The title compound was prepared from {5-azetidin-1-yl-4-chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert. -butyl ester (Example M50) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an orange solid (66 mg).

reactant | {5-azetidin-1-yl-4-chloro-2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert. -butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)Cl)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H24ClN5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(8-Azetidin-1-yl-7-chloro-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile | N1(CCC1)C=1C(=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C1)Cl | C18H14ClN5O
